US08207334B2
Preparation of 3-Cyano-6-hydroxy-7-oxo-1,7-dihydro-pyrazolo[1,5-a]pyrimidine-5-carboxylic acid methyl ester
3-amino-4-pyrazole carbonitrile (400 mg, 3.7 mmol) and dihydroxyfumarate (978 mg, 5.5 mmol) were dissolved in glacial acetic acid (5 mL) and the mixture was heated to 100° C. After 2 d, the reaction was complete by HPLC analysis and was cooled to room temperature. Ethyl acetate (10 mL) was added to initiate precipitation of product and the resulting precipitate was collected by filtration. The product was isolated in 62% yield (534 mg).

reactant | 3-amino-4-pyrazole carbonitrile | 3.7 mmol, 400 mg | NC1=NNC=C1C#N | C4H4N4
reactant | dihydroxyfumarate | 5.5 mmol, 978 mg | O\C(=C(/C(=O)[O-])\O)\C(=O)[O-]
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-Cyano-6-hydroxy-7-oxo-1,7-dihydro-pyrazolo[1,5-a]pyrimidine-5-carboxylic acid methyl ester | 62% yield | COC(=O)C=1N=C2N(C(C1O)=O)NC=C2C#N | C9H6N4O4
